US06514968B1
N-{2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethyl}-N-methylamine
Borane-methyl sulfide (0.12 mL, 0.0013 mol) is added to a mixture of 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylformamide (0.1565 g, 0.0013 mol) in dry THF (3 mL) and the mixture is stirred overnight at room temperature. The excess borane is cautiously quenched with methanol and the mixture is concentrated under reduced pressure. Methanol and dichloromethane are added to the residue and the solution is again concentrated under reduced pressure (repeated twice). The solids are then dissolved in methanol/dichloromethane and conc. HCl (27 drops) is added. After the mixture had stirred for 1.3 h, the solvent is removed under reduced pressure and the residue is partitioned between dichloromethane and aq. sodium bicarbonate. The combined organic layers are dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (40 mL) using acetone/dichloromethane/0.25% NH4OH (10/90, 20/80 and 50/50) to give 0.1300 g (86%) of the title compound; mp 96-96.75° C.; MS (ESI+) for C23H24N2O m/z 345.2 (M+H)+; IR (drift) 1600, 1580, 1467, 1449, 1341, 1307, 1268, 1242, 1151, 1128, 794, 779, 744, 718, 708 cm−1; 1H NMR (CDCl3) δ2.54, 2.61, 3.22, 4.39, 5.48, 6.68, 6.96, 7.11, 7.24, 7.31, 8.09. Anal. Calcd for C23H24N2O: C, 80.20; H, 7.02; N, 8.13. Found: C, 79.88; H, 7.15; N, 8.12.

reactant | Borane methyl sulfide | 0.0013 mol, 0.12 mL | B.CSC
reactant | 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylformamide | 0.0013 mol, 0.1565 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCCNC=O)C | C23H22N2O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-{2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethyl}-N-methylamine | 0.1300 g, 86% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCCNC)C | C23H24N2O
